US06197791B1
4-(4-Methoxy-benzenesulfonyl)-1-(4-thiophen-2-yl-benzyl)-piperidine-4-carboxylic acid ethyl ester was prepared starting from 1-(4-Bromo-benzyl)-4-(4-methoxy-benzensulfonyl)-piperidine-4-carboxylic acid ethyl ester (3 g, 6.05 mmol) and 2-(tributylstannyl)-thiophene (6.8 g, 18.14 mmol) in the presence of tetrakis palladium (0) in boiling tolune. Yield 1.58 g (52%); brown solid; mp 130° C.; MS: 500 (M+H)+

reactant | 1-(4-Bromo-benzyl)-4-(4-methoxy-benzensulfonyl)-piperidine-4-carboxylic acid ethyl ester | 6.05 mmol, 3 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)Br)S(=O)(=O)C1=CC=C(C=C1)OC | C22H26BrNO5S
reactant | 2-(tributylstannyl)-thiophene | 18.14 mmol, 6.8 g | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
product | 4-(4-Methoxy-benzenesulfonyl)-1-(4-thiophen-2-yl-benzyl)-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)C=1SC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC | C26H29NO5S2
